data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_387690_2,[C:1]1([N:9]([H:13])[H:14])([H:11])[C:3]([H:15])([H:16])[N:7]([C:5]([H:19])([H:20])[H:21])[C:2]([C:6]([H:22])([H:23])[H:24])([H:12])[C:4]([H:17])([H:18])[C:8]1=[O:10]>>[C:1]([C:3]([N:7]([C:5]([H:19])([H:20])[H:21])[H:18])([H:15])[H:16])([C:8](/[C:4](=[C:2](/[C:6]([H:22])([H:23])[H:24])[H:12])[H:17])=[O:10])([N:9]([H:13])[H:14])[H:11],54.18587999994969
MR_327381_0,[C:1]1([H:10])=[N:7][C:4]([C:2]([H:11])([H:12])[H:13])([O:6][H:8])[O:5][N:3]1[H:9]>>[C:1]1([O:6][H:8])([H:10])[N:3]([H:9])[O:5][C:4]([C:2]([H:11])([H:12])[H:13])=[N:7]1,59.31130000002853
MR_644914_1,[C:1]([N:4]([N:3](/[C:5]([O:7][H:10])=[N:8]/[C:2]([H:15])([H:16])[H:17])[O:6][H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:4]([N:8]([C:2]([H:15])([H:16])[H:17])/[C:5](=[N:3]/[O:6][H:9])[O:7][H:10])[H:11])([H:12])([H:13])[H:14],68.21740750005006
MR_37090_1,[C:1]([C:3]([C:2]([H:14])([H:16])[H:17])=[C:6](/[C:5](=[N:7]/[N:4]([H:8])[H:9])[H:10])[H:11])([H:12])([H:13])[H:15]>>[C:1]([C:3]1([C:2]([H:14])([H:16])[H:17])[C:6]([H:11])=[C:5]([H:10])[N:7]1[N:4]([H:8])[H:9])([H:12])([H:13])[H:15],43.99465249999821
MR_266541_1,[C:1]1([C:5]([O:7][H:9])=[O:8])([H:10])[C:2]([N:6]([H:13])[H:14])([H:11])[C:3]1([C:4]([H:15])([H:16])[H:17])[H:12]>>[C:1]1(/[C:2](=[N:6]/[H:13])[H:11])([H:10])[C:3]([C:4]([H:15])([H:16])[H:17])([H:12])[C:5]1([O:7][H:9])[O:8][H:14],57.33844000001582
MR_20957_2,[C:1]([C:2]([O:4][N:3]([H:6])[H:7])=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([O:4][H:7])[H:6])=[O:5])([H:8])([H:9])[H:10],33.89378499999694
MR_363060_1,[C:1]1([H:8])=[N:7][C:5]1(/[C:3]([C:2]([H:13])([H:14])[H:15])=[C:6](/[N:4]([H:9])[H:10])[H:12])[H:11]>>[C:1]12([H:8])[C:3]([C:2]([H:13])([H:14])[H:15])([C:5]([H:11])=[N:7]1)[C:6]2([N:4]([H:9])[H:10])[H:12],59.10359749994655
MR_455020_1,[C:1](/[C:3](=[C:2](/[C:6](=[C:7]([H:16])[H:17])[H:15])[O:8][H:10])[N:5]([H:13])[H:14])([N:4]([H:11])[H:12])=[O:9]>>[C:1](/[C:2](=[C:3](\[N:5]([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[O:8][H:10])([N:4]([H:11])[H:12])=[O:9],72.70968000001531
MR_97785_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:7]([C:6]([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([N:4]([H:8])[H:9])/[C:7](=[C:6](/[N:5]([H:10])[H:11])[H:12])[H:13],58.48676500000579
MR_599570_0,[C:1](=[O:3])([O:4][H:8])[N:5]([C:2]([H:9])([H:10])[H:11])[O:6][H:7]>>[C:1]([C:2]([H:9])([H:10])[H:11])([O:3][H:7])([O:4][H:8])[N:5]=[O:6],66.84945749997254
MR_416913_0,[C:1](/[N:2]=[C:5](/[C:6]([C:3]([N:4]([H:10])[H:11])=[O:9])([N:8]=[C:7]([H:17])[H:18])[H:13])[H:12])([H:14])([H:15])[H:16]>>[C:1]([N:2]([C:3]([N:4]([H:10])[H:11])=[O:9])/[C:5](=[C:6](\[N:8]=[C:7]([H:17])[H:18])[H:13])[H:12])([H:14])([H:15])[H:16],51.61250249999071
MR_19484_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:13])([H:14])[H:18])(/[C:5]([C:2]([H:10])([H:11])[H:12])=[N:7]/[O:6][H:8])[H:9]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:13])([H:14])[H:18])=[C:5]([C:2]([H:10])([H:11])[H:12])[N:7]([O:6][H:8])[H:9],72.12422249995967
MR_446563_1,[C:1]([O:6][N:2](/[C:3](=[C:5](/[O:8][H:10])[H:13])[O:7][H:9])[N:4]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([O:6][C@@:5]([C:3]([N:2][N:4]([H:11])[H:12])[O:7][H:9])([O:8][H:10])[H:13])([H:14])([H:15])[H:16],17.800920000035916
MR_253962_0,[C:1]([N:3]([C:4]([C:2]([H:17])([H:18])[H:19])=[O:9])/[C:5]([N:6]([H:11])[H:12])=[C:7](\[O:8][H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:3]=[C:5](\[N:6]([H:11])[H:12])[C:7]([C:4]([C:2]([H:17])([H:18])[H:19])=[O:9])([O:8][H:10])[H:13])([H:14])([H:15])[H:16],47.27961500001541
MR_156373_1,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:13])([H:18])[H:19])([C:4]([H:14])([H:20])[H:21])[N:6](/[C:7]([N:8]([H:11])[H:12])=[N:9]/[C:5]([H:22])([H:23])[H:24])[H:10]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:13])([H:18])[H:19])([C:4]([H:14])([H:20])[H:21])[N:9]([C:5]([H:22])([H:23])[H:24])/[C:7](=[N:6]\[H:10])[N:8]([H:11])[H:12],69.08147500004432
MR_598557_2,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[O:5][H:8])([N:4]([H:11])[H:12])([O:6][H:9])[O:7][H:10]>>[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[O:7][H:10])([N:4]([H:11])[H:12])([O:5][H:8])[O:6][H:9],71.78286250000113
MR_138950_0,[N:1](/[N:4]=[C:2](/[N:5]=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([N:4]1[C:2]([H:8])=[N:5][C:3]1([H:9])[H:10])([H:6])[H:7],36.04861999999606
MR_411077_1,[C:1]([O:8][C:4]([C:2]([H:16])([H:17])[H:18])[N:9][C:7]([C:5]([C:3]([H:19])([H:20])[H:21])[N:6]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([O:8][C@:5]([C:3]([H:19])([H:20])[H:21])([N:6]([H:10])[H:11])[C@:7]1([H:12])[C:4]([C:2]([H:16])([H:17])[H:18])[N:9]1)([H:13])([H:14])[H:15],70.36533999997744
MR_514351_1,[C:1]([C:4]1([N:3]([C:2]([H:15])([H:16])[H:17])[H:9])[C:5](=[C:7]([H:18])[H:19])[N:8]1[H:10])([N:6]([H:11])[H:12])([H:13])[H:14]>>[C:1](/[C:4]([C:5]([N:3]([C:2]([H:15])([H:16])[H:17])[H:9])=[C:7]([H:18])[H:19])=[N:8]/[H:10])([N:6]([H:11])[H:12])([H:13])[H:14],66.16422749999046
